US08980911B2
To an ice-cooled solution of (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(2,6-dichlorophenyl) methanone (50 mg, 0.16 mmol) and triethylamine (0.05 ml, 0.32 mmol) in tetrahydrofuran (5 mL) was added acetyl chloride (0.01 ml, 0.15 mmol) drop wise and stirred at room temperature for about 1 hour. Ethyl acetate was added and washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate and concentrated. The residue was taken up in methanol (5 mL), potassium carbonate (50 mg) was added and stirred for 10 minutes. The solvent was removed on a rotary evaporator at 20° C. and the residue was dissolved in dichloromethane, washed with water and brine, dried and concentrated to afford the crude product. Purification by silica gel column chromatography using ethyl acetate and dichloromethane gradient as eluent yielded N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]acetamide (45 mg, 81%).

reactant | (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(2,6-dichlorophenyl) methanone | 0.16 mmol, 50 mg | NC1=NC=CC2=C1C=CN2C(=O)C2=C(C=CC=C2Cl)Cl | C14H9Cl2N3O
reactant | triethylamine | 0.32 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.15 mmol, 0.01 ml | C(C)(=O)Cl | C2H3ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]acetamide | 45 mg, 81% | ClC1=C(C(=O)N2C=CC=3C(=NC=CC32)NC(C)=O)C(=CC=C1)Cl | C16H11Cl2N3O2
